US05847092
Preparation of N-[6-(benzoylamino)hexanoyl]glycine ethyl ester
A solution of dicyclohexylcarbodiimide (112 mmoles) in anhydrous tetrahydrofuran (44 ml) was gradually added to a suspension of N-benzoyl-6-aminohexanoic acid (93.5 mmoles), prepared as described in example 1, glycine ethyl ester hydrochloride (112 mmoles), triethylamine (112 mmoles) and anhydrous 1-hydroxybenzotriazole (112 mmoles) in tetrahydrofuran (330 ml), kept under stirring at 0° C. The reaction mixture was brought at room temperature and kept under stirring for 16 hours.

reactant | dicyclohexylcarbodiimide | 112 mmoles | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | N-benzoyl-6-aminohexanoic acid | 93.5 mmoles | C(C1=CC=CC=C1)(=O)NCCCCCC(=O)O | C13H17NO3
reactant | glycine ethyl ester hydrochloride | 112 mmoles | Cl.C(C)OC(CN)=O
reactant | triethylamine | 112 mmoles | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 112 mmoles | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | tetrahydrofuran | 44 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 330 ml | O1CCCC1 | C4H8O
product | N-[6-(benzoylamino)hexanoyl]glycine ethyl ester | C(C)OC(CNC(CCCCCNC(C1=CC=CC=C1)=O)=O)=O | C17H24N2O4
